.SUBCKT gf180mcu_fd_sc_mcu9t5v0__xor3_1 A1 A2 A3 Z VDD VDD VSS VSS
*.PININFO A1:I A2:I A3:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=!((!((A1 * A2) + !(A1 + A2)) * A3) + !(!((A1 * A2) + !(A1 + A2)) + A3))
M_i_12 I A2 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_13 VSS A1 I VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2 I2 I VSS VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_0 net_0 A1 I2 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_1 VSS A2 net_0 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_16 I3 I2 VSS VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_17 VSS A3 I3 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_8 Z I3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_6 net_2 A3 Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_7 VSS I2 net_2 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_14 net_4 A2 I VDD pmos_6p0 W=0.495000U L=0.500000U
M_i_15 VDD A1 net_4 VDD pmos_6p0 W=0.495000U L=0.500000U
M_i_5 net_1 I VDD VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_3 I2 A1 net_1 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_4 net_1 A2 I2 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_18 net_5 I2 I3 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_19 VDD A3 net_5 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_11 net_3 I3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9 Z A3 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10 net_3 I2 Z VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
