.SUBCKT gf180mcu_fd_sc_mcu9t5v0__xor3_2 A1 A2 A3 Z VDD VDD VSS VSS
*.PININFO A1:I A2:I A3:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=!((!((A1 * A2) + !(A1 + A2)) * A3) + !(!((A1 * A2) + !(A1 + A2)) + A3))
M_i_14 I A2 VSS VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_15 VSS A1 I VSS nmos_6p0 W=0.360000U L=0.600000U
M_i_2 I2 I VSS VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_0 net_0 A1 I2 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_1 VSS A2 net_0 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_18 net_5 I2 I3 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_19 VSS A3 net_5 VSS nmos_6p0 W=0.660000U L=0.600000U
M_i_10 net_2 I3 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_8 Z_neg A3 net_2 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_9 net_2 I2 Z_neg VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_6_1 VSS Z_neg Z VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_6_0 Z Z_neg VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_16 net_4 A2 I VDD pmos_6p0 W=0.495000U L=0.500000U
M_i_17 VDD A1 net_4 VDD pmos_6p0 W=0.495000U L=0.500000U
M_i_5 net_1 I VDD VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_3 I2 A1 net_1 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_4 net_1 A2 I2 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_20 I3 I2 VDD VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_21 VDD A3 I3 VDD pmos_6p0 W=0.915000U L=0.500000U
M_i_13 Z_neg I3 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11 net_3 A3 Z_neg VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_12 VDD I2 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_1 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
